US07642361B2
3-Amino-4-cyano-5-ethyl-thiophene-2-carboxylic acid ethyl ester
Add 2-(1-ethoxy-propylidene)-malononitrile, prepared in preparation 38, (230.0 g, 1531 mmol) in ethanol (1.3 L) stir with overhead stirring under nitrogen at rt and add ethyl thioglycolate (168.8 mL, 1531 mmol) and potassium acetate (225.4 g, 2297 mmol). Heat the resulting red mixture at 60° C. for 2 h. Add water (300 mL) and cool the mixture to 5° C. for 1 h. Collect the precipitate that forms by filtration, wash with 20-25% water/ethanol, and dry at rt for 3 d affording the title compound as light orange needles: 1H NMR (DMSO-d6) δ 6.76 (bs, 2H), 4.18 (q, J=7.1, 2H), 2.86 (q, J=7.5, 2H), 1.223 (t, J=7.1, 3H), 1.220 (t, J=7.5, 3H); 13C NMR (DMSO-d6) 163.8, 163.7, 153.7, 112.9, 100.0, 96.3, 60.0, 23.2, 14.3, 14.2.

reactant | 2-(1-ethoxy-propylidene)-malononitrile | C(C)OC(CC)=C(C#N)C#N | C8H10N2O
reactant | ethyl thioglycolate | 1531 mmol, 168.8 mL | C(CS)(=O)OCC | C4H8O2S
reactant | potassium acetate | 2297 mmol, 225.4 g | C(C)(=O)[O-].[K+]
reactant | water | 300 mL | O | H2O
solvent | ethanol | 1.3 L | C(C)O | C2H6O
product | 3-Amino-4-cyano-5-ethyl-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1N)C#N)CC | C10H12N2O2S
